US07709473B2
A flame-dried flask was charged with THF (3.0 mL) and 423 mg of 2,2,6,6-tetramethylpiperidine. The solution was cooled to −30° C. and 1.0 mL of a 2.5 M solution of n-butyllithium in hexanes was added dropwise. The mixture was warmed to 0° C. for 20 min. and then cooled to −78° C. A solution of 226 mg of 6-tert-butyl-8-chloro-2H-[1,2,4]triazolo[4,3-a]pyrazin-3-one in THF (2.0 mL) was added dropwise and the resulting solution was stirred for one h prior to the addition of 129 mg of isobutyraldehyde. The mixture was warmed to 0° C. and the reaction was quenched by the addition of sat. ammonium chloride solution followed by adjusting the pH of the solution to 3.0 with 2N HCl. The mixture was extracted with EtOAc and the organic layer was washed with sat. sodium chloride solution, dried over sodium sulfate, filtered, and concentrated. The residue was purified by silica gel chromatography to provide 6-tert-butyl-8-chloro-5-(1-hydroxy-3-methyl-butyl)-2H-[1,2,4]triazolo[4,3-a]pyrazin-3-one as a white solid. MS (M+H+)=313.4.

reactant | 2,2,6,6-tetramethylpiperidine | 423 mg | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 6-tert-butyl-8-chloro-2H-[1,2,4]triazolo[4,3-a]pyrazin-3-one | 226 mg | C(C)(C)(C)C=1N=C(C=2N(C1)C(NN2)=O)Cl | C9H11ClN4O
reactant | isobutyraldehyde | 129 mg | C(C(C)C)=O | C4H8O
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | 6-tert-butyl-8-chloro-5-(1-hydroxy-3-methyl-butyl)-2H-[1,2,4]triazolo[4,3-a]pyrazin-3-one | C(C)(C)(C)C=1N=C(C=2N(C1C(CC(C)C)O)C(NN2)=O)Cl | C14H21ClN4O2
